US06734281B2
N-methyl-N-hydroxyethyl Acrylamide/ N,N-dimethyl Acrylamide Cotelomer
A 1000 mL three-necked round bottom flask is charged with a solution of 27.26 g (240 mmol) cysteamine hydrochloride in 400 mL deionized water. 390 mg (1.2 mmol) 2,2′-azobis-[2-(2-imidazolin-2-yl) propane] dihydrochloride, 42,35 g (427 mmol) freshly distilled N,N-dimethyl acrylamide, and 38,74 g (300 mmol) distilled N-methyl-N-hydroxyethyl acrylamide are added. An intensive cooler and an internal thermometer are connected to the flask. The apparatus is evacuated to 100 mbar and filled with argon. This is repeated five times. The mixture is heated overnight to 40° C. and then cooled to room temperature. An analytical sample was freeze-dried and the monomer conversion was determined by 1H-NMR spectroscopy. No resonances corresponding to C═C double bonds could be detected, indicating >98% conversion of the monomer.

reactant | cysteamine hydrochloride | 240 mmol, 27.26 g | Cl.NCCS
reactant | 2,2′-azobis-[2-(2-imidazolin-2-yl) propane] dihydrochloride | 1.2 mmol, 390 mg | Cl.Cl.N(=NC(C)(C)C=1NCCN1)C(C)(C)C=1NCCN1
reactant | N,N-dimethyl acrylamide | CN(C(C=C)=O)C | C5H9NO
reactant | N-methyl-N-hydroxyethyl acrylamide | CN(C(C=C)=O)CCO | C6H11NO2
solvent | water | O | H2O
product | N-methyl-N-hydroxyethyl Acrylamide N,N-dimethyl Acrylamide | CN(C(C=C)=O)CCO.CN(C(C=C)=O)C | InChI=1S/C6H11NO2.C5H9NO/c1-3-6(9)7(2)4-5-8;1-4-5(7)6(2)3/h3,8H,1,4-5H2,2H3;4H,1H2,2-3H3
